US05185358
N-[2,6-Bis(1-methylethyl)phenyl]-N'-(3-phenyl-1,2,4-thiadiazol-5-yl)urea
2,6-Diisopropylphenylisocyanate (1.9 g, 9.4 mmol) was added to a refluxing solution of 5-amino-3-phenyl-1,2,4-thiadiazole (1.5 g, 8.5 mmol) in acetonitrile (60 mL). The mixture was refluxed for 18 hours, allowed to cool, filtered, and the filtrate concentrated, taken up in ethyl acetate (150 mL), and washed with water (3×50 mL). The organics were dried over Na2SO4, filtered, concentrated, and the resulting solid washed with hexane and recrystallized from acetonitrile to give a white solid (1.50 g, 46%), m.p. 180°-183° C.

reactant | 2,6-Diisopropylphenylisocyanate | 9.4 mmol, 1.9 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | 5-amino-3-phenyl-1,2,4-thiadiazole | 8.5 mmol, 1.5 g | NC1=NC(=NS1)C1=CC=CC=C1 | C8H7N3S
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | N-[2,6-Bis(1-methylethyl)phenyl]-N'-(3-phenyl-1,2,4-thiadiazol-5-yl)urea | 1.50 g, 46% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=NC(=NS1)C1=CC=CC=C1 | C21H24N4OS
